US06156700
Preparation of 1-Methyl-6-(trifluoromethyl)-3-(3-valeryl-1,2-benzisothiazol-5-yl)-2,4(1H,3H)-pyrimidinedione
To a solution of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid (0.200 g, 0.000540 mol) in methylene chloride is added N,N-dimethylformamide (one drop) followed by oxalyl chloride in methylene chloride (2.0 M, 0.540 ml, 0.00108 mol). The resultant mixture is stirred at room temperature for 90 minutes and concentrated in vacuo to a white solid, which is saved. To a suspension of copper cyanide (0.061 g, 0.000675 mol) in tetrahydrofuran, is added dropwise n-butyllithium (2.5 M in hexanes, 0.540 ml, 0.00135 mol) at -78° C. The reaction mixture is allowed to warm for 5 minutes and then cooled back to -78° C. The mixture is then treated with a solution of the white solid from the first step in tetrahydrofuran, and the resultant mixture stirred one hour at -78° C. The reaction mixture is quenched with saturated ammonium chloride and diluted with ethyl acetate. The organic layer is washed sequentially with saturated ammonium chloride, water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to a yellow syrup. Chromatography of the syrup on silica gel using hexanes:ethyl acetate gives the title compound as a colorless syrup (0.142 g, 64.0%) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid | 0.000540 mol, 0.200 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)O)C1)=O | C14H8F3N3O4S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | copper cyanide | 0.000675 mol, 0.061 g | [Cu](C#N)C#N
reactant | n-butyllithium | 0.00135 mol, 2.5 M, 0.540 ml | C(CCC)[Li]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | 0.00108 mol, 2.0 M, 0.540 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-6-(trifluoromethyl)-3-(3-valeryl-1,2-benzisothiazol-5-yl)-2,4(1H,3H)-pyrimidinedione | 0.142 g, 64.0% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(CCCC)=O)C1)=O | C18H16F3N3O3S
